US04976887
According to a known method, optically active 2-octyl bromide and 2,7-dihydroxylfluorenone were reacted in ethanol in the presence of potassium hydroxide. The resultant reaction mixture was purified by a column chromatography and recrystallization to obtain optically active 2-hydroxy-7-(2-octyloxy)-fluorenone.

reactant | 2-octyl bromide | CC(CCCCCC)Br | C8H17Br
reactant | 2,7-dihydroxylfluorenone | OC=1C(C2=CC3=CC(=CC=C3C2=CC1)O)=O | C13H8O3
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 2-hydroxy-7-(2-octyloxy)-fluorenone | OC=1C(C2=CC3=CC(=CC=C3C2=CC1)OC(C)CCCCCC)=O | C21H24O3
